US08119644B2
3-Amino-5-(5-methyl-pyridin-2-yl)-benzoic acid ethyl ester (3.7 g, 14.45 mmol) was added to 50 mL of acetonitrile, and the mixture was stirred at room temperature. Isoamyl nitrite (9.7 mL, 72.27 mmol) was slowly added, followed by methylene iodide (7.0 mL, 86.7 mmol). The reaction mixture was slowly heated to 60° C. for 30 minutes, then cooled to room temperature. The reaction mixture was partitioned between water and ethyl acetate, and the organic phase was separated, washed with water and brine, dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by liquid chromatography (30% to 100% methylene chloride/hexanes) to give 3-iodo-5-(5-methyl-pyridin-2-yl)-benzoic acid ethyl ester, MS (M+H)=368.

reactant | 3-Amino-5-(5-methyl-pyridin-2-yl)-benzoic acid ethyl ester | 14.45 mmol, 3.7 g | C(C)OC(C1=CC(=CC(=C1)C1=NC=C(C=C1)C)N)=O | C15H16N2O2
reactant | Isoamyl nitrite | 72.27 mmol, 9.7 mL | N(=O)OCCC(C)C | C5H11NO2
reactant | methylene iodide | 86.7 mmol, 7.0 mL | C(I)I | CH2I2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 3-iodo-5-(5-methyl-pyridin-2-yl)-benzoic acid ethyl ester | C(C)OC(C1=CC(=CC(=C1)C1=NC=C(C=C1)C)I)=O | C15H14INO2
